US04764519
5-(3-Pyridylmethyl)-2-pyridone dihydrochloride (36 g) was dissolved in water, basified with sodium hydroxide and extracted into chloroform (3×100 ml). The combined extracts were dried over magnesium sulphate and the solvent removed to give 5-(3-pyridylmethyl)-2-pyridone (26 g), m.p. 142°-144° C.

reactant | 5-(3-Pyridylmethyl)-2-pyridone dihydrochloride | 36 g | Cl.Cl.N1=CC(=CC=C1)CC=1C=CC(NC1)=O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 5-(3-pyridylmethyl)-2-pyridone | 26 g | N1=CC(=CC=C1)CC=1C=CC(NC1)=O | C11H10N2O
